US05616586
9-Bromo-5-(m-acetylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione
A procedure similar to that described in Example 51 was carried out with 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione (170 mg, 0.5 mmol) and m-acetylaniline (80 mg, 0.59 mmol) to give 200 mg of the title compound (85%): mp>270° C.; 1H NMR (270 MHz, DMSO-d6) δ12.07 (bs, 1H), 10.23 (s, 1H), 8.12 (bs, 1H), 7.85 (d, 1H, J=8.1 Hz), 7.68 (d, 1H, J=8.1 Hz), 7.47 (t, 1H, J=8.1 Hz), 7.24 (d, 1H, J=2 Hz), 7.17 (d, 1H, J=2 Hz), 5.18~5.28 (m, 1H), 3.06 (ddd, 1H, J=17.1, 13.5, 4.5 Hz), 2.83 (dm, 1H, J=17.1 Hz), 2.55~2.70 (m, 2H), 2.56 (s, 3H), 2.12 (dm, 1H, J=13.5 Hz), 1.81~1.96 (m, 1H).

reactant | 9-bromo-5-carboxymethyl-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 0.5 mmol, 170 mg | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(=O)O | C13H11BrN2O4
reactant | m-acetylaniline | 0.59 mmol, 80 mg | C(C)(=O)C=1C=C(N)C=CC1 | C8H9NO
product | 9-Bromo-5-(m-acetylphenylcarbamoylmethyl)-6,7-dihydro-1H, 5H-pyrido[1,2,3-de]quinoxaline-2,3-dione | 200 mg, 85% | BrC=1C=C2C=3N(C(C(NC3C1)=O)=O)C(CC2)CC(NC2=CC(=CC=C2)C(C)=O)=O | C21H18BrN3O4
